US08669271B2
4-[5-(6-Methanesulfonyl-pyridin-3-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester and 5-bromo-2-methanesulfonyl-pyridine following a procedure analogous to that described in Example 1.

reactant | 4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C23H34BNO5
reactant | 5-bromo-2-methanesulfonyl-pyridine | BrC=1C=CC(=NC1)S(=O)(=O)C | C6H6BrNO2S
product | 4-[5-(6-Methanesulfonyl-pyridin-3-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | Yield: 66% | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C=2C=NC(=CC2)S(=O)(=O)C | C23H28N2O5S
